US05538988
A mixture 3-[2-(4-cyanophenyl)ethyl]-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (0.5 g, 1.4 mmol), prepared as in Example 15, and tributyltin azide (1.39 g, 4.2 mmol) in 3 mL of xylene was heated at 120° C. under nitrogen for approximately 16 hours. The mixture was purified by chromatography on silica gel eluting with methylene chloride/methanol and the purified product was recrystallized from ethyl acetate/methanol to give 3-[2-(4 (1H)-tetrazol-5-ylphenyl)ethyl]-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (0.5 g, 1.4 mmol), m.p. 218°-220° C.

reactant | 3-[2-(4-cyanophenyl)ethyl]-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 1.4 mmol, 0.5 g | C(#N)C1=CC=C(C=C1)CCN1C(N(C=C1)C1CC2=CC=CC=C2CC1)=S | C22H21N3S
reactant | tributyltin azide | 4.2 mmol, 1.39 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[2-(4 (1H)-tetrazol-5-ylphenyl)ethyl]-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 1.4 mmol, 0.5 g | N1N=NN=C1C1=CC=C(C=C1)CCN1C(N(C=C1)C1CC2=CC=CC=C2CC1)=S | C22H22N6S
